US08217043B2
c) 1-(Benzyl-tert-butoxycarbonyl-amino)-1H-pyrrole-2-carboxylic acid methyl ester
Sodium hydride (105 mg, 2.24 mmol, 60% purity in mineral oil) was added in one portion to a stirred, ice/water-cooled solution of 1-tert-butoxycarbonylamino-1H-pyrrole-2-carboxylic acid methyl ester (448 mg, 1.86 mmol) and benzyl bromide (267 μL, 2.24 mmol) in DMF (8 mL); the mixture was stirred in the cold bath for 60 min, at which time TLC showed complete disappearance of starting material; then poured into diluted, cold ammonium chloride solution to quench, followed by extraction with EtOAc, then washed with water, and brine; the organic phase was dried over anhydrous sodium sulfate, filtered, concentrated, and the residue was silica gel column purified to give the desired product (530 mg) as a clear oil. ESI (m/z): 353 (M+Na)+.

reactant | Sodium hydride | 2.24 mmol, 105 mg | [H-].[Na+]
reactant | 1-tert-butoxycarbonylamino-1H-pyrrole-2-carboxylic acid methyl ester | 1.86 mmol, 448 mg | COC(=O)C=1N(C=CC1)NC(=O)OC(C)(C)C | C11H16N2O4
reactant | benzyl bromide | 2.24 mmol, 267 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(Benzyl-tert-butoxycarbonyl-amino)-1H-pyrrole-2-carboxylic acid methyl ester | 530 mg | COC(=O)C=1N(C=CC1)N(C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C18H22N2O4
